US06207829B1
(1b) 2-Fluoro-5-(4-methyl-1-piperazinylsulphonyl)benzoic acid (Compound VIIA, X═F)
A solution of 5-chlorosulphonyl-2-fluorobenzoic acid (47.72 g, 0.2 mol) in acetone (250 ml) was added to a mixture of N-methylpiperazine (22.04 g, 0.22 mol) and triethylamine (24.29 g, 0.24 mol) and the reaction was stirred at ambient for three hours. The mixture was filtered, the resulting solid was recrystallised from water to afford the title compound (14.63 g, 24.2%) as a white solid. δ (DMSO): 2.30 (3H, s), 2.58 (4H, m), 2.95 (4H, m), 7.52 (1H, m), 7.90 (1H, m), 8.10 m/z (Found: 303 [M+H]+, 100%, C12H16FN2O4S requires 303).

reactant | 5-chlorosulphonyl-2-fluorobenzoic acid | 0.2 mol, 47.72 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C7H4ClFO4S
reactant | N-methylpiperazine | 0.22 mol, 22.04 g | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 0.24 mol, 24.29 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 2-Fluoro-5-(4-methyl-1-piperazinylsulphonyl)benzoic acid | 14.63 g, 24.2% | FC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C12H15FN2O4S
